US06521643B1
To a suspension of 3-(3-methylpyridin-2-yl)aniline (184 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (331 mg) and diisopropylethyl-amine (0.4 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (332 mg), and the mixture was stirred for 3 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane:ethyl acetate=2:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-methylpyridin-2-yl)phenyl)guanidine (327 mg).

reactant | 3-(3-methylpyridin-2-yl)aniline | 184 mg | CC=1C(=NC=CC1)C=1C=C(N)C=CC1 | C12H12N2
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 331 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethyl-amine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 332 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-methylpyridin-2-yl)phenyl)guanidine | 327 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1C)NC(=O)OC(C)(C)C | C23H30N4O4
